US04052511
a. 3-Methoxycarbonyl-2-benzylidenepropanoic acid
2-Carboxymethyl-3-phenylpropenoic acid (4.1 g.) and acetic anhydride (9 ml.) are heated in the steam bath for 70 minutes. The mixture is concentrated to dryness and the residue triturated with ether, yield 3.6 g. This anhydride is dissolved in 7 ml. of methanol and heated in the steam bath for 1 hour.

reactant | 2-Carboxymethyl-3-phenylpropenoic acid | 4.1 g | C(=O)(O)CC(C(=O)O)=CC1=CC=CC=C1 | C11H10O4
reactant | acetic anhydride | 9 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Methoxycarbonyl-2-benzylidenepropanoic acid | COC(=O)CC(C(=O)O)=CC1=CC=CC=C1 | C12H12O4
